US05472978
a) 3-(3-Benzo[b]thienyl)-2-amino-1-propanol
A solution of β-(3-benzo[b]thienyl)DL alanine (5.0 g) [P. N. Rao et al, Int. J. Peptide Protein Res, 29, 118, (1987)] in dry tetrahydrofuran (50 ml) was added to an ice cold solution of lithium aluminium hydride in dry tetrahydrofuran (22 ml of a 1M solution). Once addition was complete the mixture was warmed to reflux for one hour, cooled to room temperature and the reaction quenched by the addition of 4N sodium hydroxide (5.0 ml). The reaction mixture was diluted with water (100 ml) extracted with ethyl acetate (2×100 ml), the organic layers were separated, dried (MgSO4), filtered and the solvent removal under reduced pressure to afford the title compound as a colourless oil. 1H NMR (360 MHz, CDCl3) δ2.65 (1H, m, CH2CHCH2OH), 2.99 (2H, m, CH2CH2OH), 3.23 (2H, m, CH2CHCH2OH), 7.44 (2H, m, 2×ArH), 7.61 (1H, s, S-CHC), 7.86 (1H, dd, J=6.0, 1.0 Hz, ArH), 7.97 (1H, dd, J=6.0, 1.0 Hz, ArH). m/z (EI+) 207.

reactant | β-(3-benzo[b]thienyl)DL alanine | 5.0 g | S1C2=C(C(=C1)CC(N)C(=O)O)C=CC=C2 | C11H11NO2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3-Benzo[b]thienyl)-2-amino-1-propanol | S1C2=C(C(=C1)CC(CO)N)C=CC=C2 | C11H13NOS
